Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I took some pills from a bottle"
 
Major Surgical or Invasive Procedure:
L volar wrist laceration wound was irrigated and repaired with 
loose ___ and ___ nylon sutures by hand surgery in the emergency 
room.

 
History of Present Illness:
For further details of the history and presentation, please see 
___ including Dr. ___ initial consultation note 
dated ___ dated. 
. 
Briefly, this is a ___ year old single Latino man, ___ 
speaking only, with reported history of depression, one prior 
suicide attempt, longstanding history of impulsivity and 
behavioral dysregulation beginning in childhood, who presented 
to ___ via EMS from ___ in the setting 
of intentional overdose on a beta blocker and Xanax as well as a 
self inflicted laceration to his wrist. 
. 
On initial interview with Mr. ___, patient reported, 
"I'm doing fine now." He acknowledged he tried to kill himself 
by overdosing on his medications because his reported girlfriend 
tried to break up with him, as a result he slit his left wrist 
with a knife and  then she called an ambulance. Patient 
reported, "we are still together," and denied any mood symptoms 
prior to this break up, stating, "I was fine, my psychiatrist 
says that I am fine." Reported he last saw his treaters 
approximately two days ago and did not report any psychiatric 
symptoms because he did not have any. Stated the last time he 
experienced symptoms was about a year ago when a different 
girlfriend broke up with him, resulting in a psychiatric 
hospitalization. 
. 
After being told he could not leave the hospital, patient became 
agitated, requiring chemical restraints and was noted to be 
spitting at staff.
. 
Per collateral obtained from his sister, ___ 
___, this is the third time he has made a similar 
suicide attempt. She reported he "spent ___ years in the first 
grade and does not know how to read or write." Sister reported 
he is somewhat limited and that she supervises his medications. 
. 
 
Past Medical History:
Past Medical History: 
- Type II DM
- HTN 
- Chronic back pain
- Morbid Obesity 
.
Past psychiatric history: 
- Hospitalizations: 1 prior, ___ year ago, unclear where
- Current treaters and treatment: ___, who is 
likely his psychologist as per Internet search ___. 
It seems that his psychiatric medications are prescribed by a 
Dr. ___ (as per ___ - who is a family 
medicine practitioner. 
- Medication and ECT trials: Patient unable to report
- Self-injury: 2 prior SAs (pt reports only 1 prior SA, in 
addition to tonight)
- Harm to others: Denies
- Access to weapons: Denies

 
Social History:
___
Family History:
One sister with depression. Denies family hx of SA or 
hospitalizations.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
VS: T: 98.8, BP: 142/99, HR: 105, R: 20, O2 sat: 95% on RA
.
___: Middle-aged male in NAD. Obese, disheveled, wearing 
hospital gown. Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear, small black markings on right lateral aspect of upper 
palate
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema. Left wrist 
dressing in place.
 Skin: No rashes, abrasions, scars, or lesions. 
.
Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: grossly intact
 IX, X: Palatal elevation symmetrical.
 XI: Sternocleidomastoid and trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor.
Strength: full power ___ throughout.
Coordination: Normal on finger to nose test. DTRs: 2+ and 
symmetrical throughout. Sensation: Intact to light touch 
throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Not assessed.
.
Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview
  Orientation: oriented to person; pt states it is ___, does
not know day of week or year; knows he is in hospital, but 
unsure
of which one or which city
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: intact to recent and past history, knew ___ last
presidents
  Fund of knowledge: consistent with education
  Calculations: could not determine number of quarters in $2.25
  Abstraction: apples/oranges = "both to eat"
  Visuospatial: not assessed
  Speech: normal rate, volume, and tone
  Language: ___ speaker, appropriate to conversation
.
Mental Status:
- Appearance: Obese, no apparent distress, appears stated age, 
lethargic, disheveled, unkempt, wearing hospital gown and 
bedsheet, tattoos visible on right arm and back
- Behavior: Calm, barely cooperative, looks down often, poor eye 
contact, rests head on examination table while seated, right leg 
shaking
- Mood and Affect: "well" / constricted, incongruent with mood
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/VH, describes hearing his voice 
called when no one is around, no evidence of delusions or 
paranoia
 Judgment and Insight: poor/poor
DISCHARGE PHYSICAL EXAMINATION:
Station/Gait: Normal gait and station
Tone and strength: Moves all 4 extremities, strength grossly 
intact
.
Appearance: Morbidly obese Hispanic age-appearing male, 
disheveled hair, wearing T shirt and sweatpants multiple tattoos 
on arms, NAD
Behavior: calm, pleasant, cooperative, fair eye contact
Speech: normal rate, volume
Mood: "ok"
Affect: reactive, full range
Thought Process: linear, concrete at times 
Thought Content: denies SI/HI. no overtly delusional content
Insight/Judgment: limited/poor
.
Cognition:
Attention: attentive to interview 
Orientation: awake and alert, oriented to person, place,
situation
Language: ___, live interpreter used 
 
Pertinent Results:
___ 04:15AM BLOOD WBC-9.0 RBC-5.16 Hgb-15.5 Hct-45.9 MCV-89 
MCH-30.0 MCHC-33.8 RDW-13.2 RDWSD-42.8 Plt ___
___ 04:15AM BLOOD Neuts-59.5 ___ Monos-5.7 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-5.37 AbsLymp-2.84 AbsMono-0.51 
AbsEos-0.14 AbsBaso-0.05
___ 04:15AM BLOOD ___ PTT-28.1 ___
___ 04:05AM BLOOD Glucose-186* UreaN-9 Creat-0.6 Na-137 
K-3.2* Cl-97 HCO3-27 AnGap-16
___ 04:15AM BLOOD ALT-35 AST-20 AlkPhos-93 TotBili-0.3
___ 05:40AM BLOOD %HbA1c-8.6* eAG-200*
___ 05:40AM BLOOD Triglyc-168* HDL-34* CHOL/HD-4.6 
LDLcalc-89
___ 05:40AM BLOOD TSH-1.6
___ 05:00AM BLOOD Valproa-66
___:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
This is the complicated case of a ___ year old single Latino man, 
___ 
speaking only, with reported history of depression, one prior 
suicide attempt, longstanding history of impulsivity and  
behavioral dysregulation beginning in childhood, who presented 
to ___ via EMS from ___ in the setting  
of intentional overdose on a beta blocker and Xanax as well as a 

self inflicted laceration to his wrist. 
. 
Interview with Mr. ___ was notably limited, as he tended 
to minimize his presentation throughout his psychiatric 
hospitalization, but significant for him apparently being in his 
usual state of health until his "girlfriend" broke up with him, 
causing significant distress with resultant impulsive suicide 
attempt as noted above. Collateral from his sisters, ___ and 
___ was concerning for a longstanding neurodevelopmental 
process beginning in childhood with longstanding history of 
aggressive behaviors with assaultive behaviors towards teachers 
in the first grade, history of criminal behaviors with prior 
charges for homicide, stalking, violating a restraining order, 
resulting in numerous incarcerations. Of note, his sister 
___ reports his most recent relationship with his reported 
girlfriend was not romantic in nature but that Mr. ___ 
had reported to his sister he felt "betrayed" and that he wanted 
to shoot this woman; however, he currently does not have access 
to a gun (although has been in gangs in the past and could 
obtain one, per the sister's report, in ___. 
.
Diagnostically, nothing in history to suggest a prior history of 
manic symptoms including decreased need for sleep, increased 
energy, rapid speech. Nothing on my examination to suggest a 
major mood episode (he consistently denied depressive symptoms 
and serial mental status examinations notable for euthymic 
affect with some reactivity when he was told he could not leave 
the hospital when he wanted to. He consistently denied SI/HI, 
AVH, paranoia during his hospitalization, and his thought 
process was notably linear, goal and future oriented. Given this 
history, believe the etiology of his presentation was consistent 
with underlying neurodevelopmental disorder that renders him 
predisposed to chronic impulsivity and aggressive behaviors-- 
again, no evidence to suggest a current/prior major depressive 
episode, manic, or psychotic episode. 
.
#. Legal/Safety: Patient refused to sign a conditional voluntary 
agreement on admission so was admitted on a ___. On 
___, patient signed a conditional voluntary agreement 
(Section 10 & 11) and signed a 3-day notice on ___ which 
expired on ___. Given his consistent denial of suicidal 
ideation or thoughts of self-harm consistent denial of wanting 
to harm others, his ability to maintain adequate behavioral 
control on the unit with no unsafe behaviors it was felt that he 
did not meet criteria to file a 7&8b at that time and was deemed 
to be safe and stable for discharge home with his sister. Of 
note, he did not express any preoccupation with his 
"ex-girlfriend," stating he was "over it" and had moved on. For 
this reason, I did not notify his ex-roommate of his upcoming 
discharge, as he denied any desire or intent to harm her. 
.
#. Unspecified neurodevelopmental disorder as noted above: 
- Patient was encouraged to attend groups, but given the 
language barrier, he largely declined. He was compliant in 
meeting with his treatment team. 
- After discussion of the risks and benefits, risperidone was 
started and titrated to 2 mg BID for irritability which was 
later downtitrated to Risperdal 2 mg QHS due to patient 
complaint of feeling sedated during the day. He was also started 
on Cogentin 1 mg QHS for prevention of extrapyramidal side 
effects. 
- Given his history of aggression and impulsivity, we also 
discussed the risks and benefits of Depakote, which was titrated 
to Depakote 1500 mg XL nightly with good effect; Depakote on 
___ 66 by time of discharge. 
- Patient was compliant with medications and consistently denied 
suicidal ideation or thoughts of self harm, thoughts of wanting 
to harm others throughout his psychiatric hospitalization. By 
time of discharge he stated that he felt better and was 
motivated to leave the hospital, take his medications, and 
follow up with outpatient treaters. He also was in agreement 
with plan for referral to partial hospital program to continue 
working on coping skills and ability to tolerate rejection. Plan 
was for him to return home with his sister, who felt comfortable 
with the above discharge plan. 
.
#. L wrist laceration
- Patient was seen by hand surgery daily for dressing changes 
throughout the hospitalization. 
- Patient was started on Keflex ___ mg q6h due to concern for 
erythema around the laceration site and completed a full 7 day 
course on ___ with improvement of erythema and no drainage. 
Patient was not febrile during the hospitalization
- Patient was scheduled for follow up in hand surgery clinic at 
___ on ___
- Wound care by ___ on discharge
.
#. Type II DM2 (HbA1c 8.1%)
- ___ was consulted for assistance in 
management
- Started on metformin 500 mg BID and glipizide 5 mg daily with 
good effect
- Patient received additional coverage with insulin sliding 
scale, but after the above medications were started, patient's 
fingersticks were well-controlled in low 100s 
- Patient continued on metformin 500 mg BID and glipizide 5 mg 
daily on discharge 
.
#. HTN
- Patient's blood pressure was noted to be low throughout the 
hospitalization, likely secondary to improved diet while in the 
hospital and possibly noncompliance with medication outside of 
the hospital. 
- HCTZ was discontinued
- Atenolol 50 mg daily and Lisinopril 20 mg daily were continued 

.
#. GERD
- Continued home omeprazole 20 mg daily
.
#. Obesity
- Phentermine was held, patient instructed to follow up with PCP 
regarding restarting this medication
.
#. Chronic Lower Back Pain
- Patient's pain was well-controlled with conservative measures 
and did not require Percocet for pain control
- Patient was discharged without Percocet and was instructed to 
follow up with his PCP if his pain worsens
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. phentermine 37.5 mg oral DAILY 
3. ALPRAZolam 0.5 mg PO DAILY 
4. OxyCODONE--Acetaminophen (5mg-325mg) Dose is Unknown  PO 
DAILY:PRN Pain - Mild 
5. Omeprazole 20 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. lisinopril-hydrochlorothiazide ___ mg oral DAILY 

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
2.  Divalproex (EXTended Release) 1500 mg PO DAILY 
RX *divalproex [Depakote ER] 500 mg 3 tablet(s) by mouth nightly 
Disp #*90 Tablet Refills:*0 
3.  GlipiZIDE XL 5 mg PO DAILY 
RX *glipizide 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Kerlix (gauze bandage) 4 X 4  topical DAILY 
RX *gauze bandage [Kerlix] ___ X ___ change L wrist dressing 
daily Disp #*12 Package Refills:*0 
5.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  RisperiDONE 2 mg PO QHS 
RX *risperidone [Risperdal] 2 mg 1 tablet(s) by mouth nightly 
Disp #*30 Tablet Refills:*0 
7.  Xeroflo Gauze Dressing (bismuth tribrom-petrolatum,wh) 2 X 2 
 topical DAILY 
RX *bismuth tribrom-petrolatum,wh [Xeroform] 5" X 9" change L 
wrist dressing daily Disp #*14 Each Refills:*0 
8.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice per day Disp 
#*60 Tablet Refills:*0 
9.  Atenolol 50 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11. HELD- OxyCODONE--Acetaminophen (5mg-325mg) Dose is Unknown  
PO DAILY:PRN Pain - Mild  This medication was held. Do not 
restart OxyCODONE--Acetaminophen (5mg-325mg) until you see your 
primary care doctor
12. HELD- phentermine 37.5 mg oral DAILY  This medication was 
held. Do not restart phentermine until you see your primary care 
doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Unspecified neurodevelopmental disorder
Diabetes Mellitus
Hypertension
Left wrist laceration s/p repair

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Por favor, siga con todas las citas para pacientes ambulatorios 
indicados -- tomar este papeleo de descarga a sus citas. 
-Una duración limitada ___ se ___, por 
favor continúe todos ___ según las instrucciones 
hasta ___ dice para detener o cambiar. 
-Evitar abusar del alcohol y ___ droga, ___ sea medicamentos o 
drogas ilegales, como ___ más empeoran sus enfermedades 
médicas y psiquiátricas. 
-Póngase en contacto con el psiquiatra del ambulatorio u otros 
proveedores si tiene ___. 
-Por favor, llame al 911 o ___ de emergencias más 
cercana si se siente inseguro de ___ y no 
inmediatamente llegar a sus proveedores de atención médica. 

Fue un placer ___ con ___ 
de salud. 

#ERROR!
-Please follow up with all outpatient appointments as listed -- 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs -- whether 
prescription drugs or illegal drugs -- as this can further 
worsen your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___